US04810697
(c) Esterification of Bupranolol-HCl
11.0 g (0.016 mole) 1,3-dipalmitin-succinic acid monoester-acylchloride are dissolved in 350 ml chloroform, cooled to 5° and 1.6 g dry pyridine added. Subsequently, a suspension of 6.2 g bupranolol--HCl in dry chloroform is added in drops over one hour at 5°. The reaction mixture is then further processed for 48 hours under reflux and the exclusion of water at room temperature. The chloroform solution is then washed with 0.1N HCl and water, dried over MgSO4 and evaporated. The rubber-like product obtained in this manner is purified by means of column chromatography. The product may optionally be further processed as in Example 1.

reactant | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | bupranolol | 6.2 g | CC=1C=CC(=C(C1)OCC(CNC(C)(C)C)O)Cl | C14H22ClNO2
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | Bupranolol HCl | CC=1C=CC(=C(C1)OCC(CNC(C)(C)C)O)Cl.Cl | InChI=1S/C14H22ClNO2.ClH/c1-10-5-6-12(15)13(7-10)18-9-11(17)8-16-14(2,3)4;/h5-7,11,16-17H,8-9H2,1-4H3;1H
